* D:\Documents\Portfolio\Portfolio\AudioEQ\Test.asc
V1 VIN3 0 wavefile=prueba_1.wav
R2 Ninv1 N001 18756
C1 Ninv1 0 .1µ
C2 inv1 N001 .2µ
V2 VCC 0 12
V3 VEE 0 -12
B1 inv1 0 V=1Meg*(V(Ninv1)-V(inv1))
C3 N002 VIN .1µ
C4 Ninv2 N002 .1µ
R3 Ninv2 0 112540
R4 inv2 N002 56270
B2 inv2 0 V=1Meg*(V(Ninv2)-V(inv2))
R1 N001 inv2 18756
R5 Ninv4 N003 5627
C5 Ninv4 0 .1µ
C6 inv4 N003 .2µ
B3 inv4 0 V=1Meg*(V(Ninv4)-V(inv4))
C7 N004 VIN .1µ
C8 Ninv3 N004 .1µ
R6 Ninv3 0 37513
R7 inv3 N004 18757
B4 inv3 0 V=1Meg*(V(Ninv3)-V(inv3))
R8 N003 inv3 5627
R9 Ninv6 N005 1876
C9 Ninv6 0 .1µ
C10 inv6 N005 .2µ
B5 inv6 0 V=1Meg*(V(Ninv6)-V(inv6))
C11 N006 VIN .1µ
C12 Ninv5 N006 .1µ
R10 Ninv5 0 11254
R11 inv5 N006 5627
B6 inv5 0 V=1Meg*(V(Ninv5)-V(inv5))
R12 N005 inv5 1876
R13 Ninv8 N010 375
C13 Ninv8 0 .1µ
C14 inv8 N010 .2µ
B7 inv8 0 V=1Meg*(V(Ninv8)-V(inv8))
C15 N011 VIN .1µ
C16 Ninv7 N011 .1µ
R14 Ninv7 0 3751
R15 inv7 N011 1876
B8 inv7 0 V=1Meg*(V(Ninv7)-V(inv7))
R16 N010 inv7 375
R17 Ninv10 N012 141
C17 Ninv10 0 .1µ
C18 inv10 N012 .2µ
B9 inv10 0 V=1Meg*(V(Ninv10)-V(inv10))
C19 Ninv9 N013 .1µ
R18 Ninv9 0 750
R19 inv9 N013 375
B10 inv9 0 V=1Meg*(V(Ninv9)-V(inv9))
R20 N012 inv9 141
R21 Ninv12 N014 94
C20 Ninv12 0 .1µ
C21 inv12 N014 .2µ
B11 inv12 0 V=1Meg*(V(Ninv12)-V(inv12))
C22 N015 VIN .1µ
C23 Ninv11 N015 .1µ
R22 Ninv11 0 281
R23 inv11 N015 141
B12 inv11 0 V=1Meg*(V(Ninv11)-V(inv11))
R24 N014 inv11 94
R25 Ninv14 N016 56
C24 Ninv14 0 .1µ
C25 inv14 N016 .2µ
B13 inv14 0 V=1Meg*(V(Ninv14)-V(inv14))
C26 N017 VIN .1µ
C27 Ninv13 N017 .1µ
R26 Ninv13 0 188
R27 inv13 N017 94
B14 inv13 0 V=1Meg*(V(Ninv13)-V(inv13))
R28 N016 inv13 56
C28 N013 VIN .1µ
R29 inv15 inv1 {R1}
R30 F1 inv15 1k
B15 F1 0 V=1Meg*(-V(inv15))
R31 inv16 inv4 {R2}
R32 F2 inv16 1k
B16 F2 0 V=1Meg*(-V(inv16))
R33 inv17 inv6 {R3}
R34 F3 inv17 1k
B17 F3 0 V=1Meg*(-V(inv17))
R35 inv18 inv8 {R4}
R36 F4 inv18 1k
B18 F4 0 V=1Meg*(-V(inv18))
R37 inv19 inv10 {R5}
R38 F5 inv19 1k
B19 F5 0 V=1Meg*(-V(inv19))
R39 inv20 inv12 {R6}
R40 F6 inv20 1k
B20 F6 0 V=1Meg*(-V(inv20))
R41 inv21 inv14 {R7}
R42 F7 inv21 1k
B21 F7 0 V=1Meg*(-V(inv21))
R43 inv22 F1 1k
R44 inv22 F2 1k
R45 inv22 F3 1k
R46 inv22 F4 1k
R47 inv22 F5 1k
R48 inv22 F6 1k
R49 inv22 F7 1k
R50 VSD inv22 1k
B22 VSD 0 V=1Meg*(-V(inv22))
R51 N007 VSD 1k
D1 N007 N008 1N914
D2 N009 N007 1N914
B23 VD 0 V=1Meg*(-V(Ninv23))
D4 0 N009 1N914
D3 N008 0 1N914
V4 VIN2 0 wavefile=prueba.wav
R52 inv25 VIN3 {R8}
R53 inv25 VIN2 {R9}
R54 VIN inv25 1k
B24 VIN 0 V=1Meg*(-V(inv25))
R55 Ninv23 N007 100
R56 VD Ninv23 1K
R57 inv27 VSD {R10}
R58 inv27 VD {R11}
R59 out inv27 1K
B25 out 0 V=1Meg*(-V(inv27))
.model D D
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 {time} 0 .01
.wave "D:\Documents\Portfolio\Portfolio\AudioEQ\salida.wav" 16 16k V(out)
.include param.txt
.option fastaccess
.save V(out)
.backanno
.end
